US08053438B2
STEP 3: (1H-BENZO[D]IMIDAZOL-2-YL)(4-HYDROXYPHENYL)METHANONE
To a slurry of compound (1H-benzo[d]imidazol-2-yl)(4-(4-methoxybenzyloxy)phenyl)methanone (268 g, 0.75 mol) in dichloromethane (2.7 L) at ambient temperature was added TFA (289 mL, 3.75 mol, 5.0 eq.) slowly using an addition funnel. The reaction was stirred at ambient temp for 16 h. LCMS analysis of the reaction mixture revealed that the reaction was complete. The reaction mixture was neutralized with satd. aqueous NaHCO3 to pH=7-8, and stirred for 20 minutes. The resulting solid was filtered and washed with water and dried under vacuum oven at 45° C. to give product.

reactant | (1H-benzo[d]imidazol-2-yl)(4-(4-methoxybenzyloxy)phenyl)methanone | 0.75 mol, 268 g | N1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(C=C2)OCC2=CC=C(C=C2)OC | C22H18N2O3
reactant | TFA | 3.75 mol, 289 mL, 5.0 eq. | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 2.7 L | ClCCl | CH2Cl2
product | (1H-BENZO[D]IMIDAZOL-2-YL)(4-HYDROXYPHENYL)METHANONE | N1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(C=C2)O | C14H10N2O2
